US05051445
Hydroquinone monobenzyl ether is reacted with 2-bromoethyl-n-propyl ether in aqueous sodium hydroxide and then purified over silica gel with toluene as eluent. The middle fraction gives 1-benzyloxy-4-(2-propoxy-ethoxy)benzene (used without further purification).

reactant | Hydroquinone monobenzyl ether | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | 2-bromoethyl-n-propyl ether | BrCCOCCC | C5H11BrO
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-benzyloxy-4-(2-propoxy-ethoxy)benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCOCCC | C18H22O3
